US05668291
2,2'-Dithiobis[N-4-pyrimidinyl benzamide]
This compound was prepared according to the general method of Example 90 using 2,2'-dithiobisbenzoyl chloride (3.00 g, 8.74 mmol) in 75 mL of dichloromethane and 4-aminopyrimidine (1.66 g, 17.5 mmol) in 14 mL of pyridine. The crude product was triturated with a hot mixture of acetonitrile and DMF, filtered, and recrystallized from water-DMF to yield 0.08 g of the title compound, mp 234°-235° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 8.74 mmol, 3.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 4-aminopyrimidine | 17.5 mmol, 1.66 g | NC1=NC=NC=C1 | C4H5N3
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | pyridine | 14 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-4-pyrimidinyl benzamide] | 0.08 g | N1=CN=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=NC=NC=C2)C=CC=C1)=O | C22H16N6O2S2
